US07649002B2
Methyl (3S*,4R*)-1-benzyl-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate
A solution of trifluoroacetic acid (2.42 mL, 31.5 mmol) in dichloromethane (5 mL) was added at 0-5° C. to a stirred solution of N-benzyl-N-(methoxymethyl)trimethylsilylamine (45.1 g, 190 mmol) and methyl (2E)-3-(2,4-difluorophenyl)acrylate (from preparation 3) (25.1 g, 126 mmol) in dichloromethane (100 mL). After stirring overnight at room temperature, the organic solution was washed with saturated sodium bicarbonate solution and then brine. The resulting organic solution was dried over anhydrous sodium sulfate, filtered and then evaporated. The residue was purified by flash chromatography on silica gel eluting with toluene:tetrahydrofuran mixture (11:1) to afford the title compound (31.6 mL, 71%) as a colourless oil.

reactant | trifluoroacetic acid | 31.5 mmol, 2.42 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-benzyl-N-(methoxymethyl)trimethylsilylamine | 190 mmol, 45.1 g | C(C1=CC=CC=C1)N(COC)[Si](C)(C)C | C12H21NOSi
reactant | methyl (2E)-3-(2,4-difluorophenyl)acrylate | 126 mmol, 25.1 g | FC1=C(C=CC(=C1)F)/C=C/C(=O)OC | C10H8F2O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Methyl (3S*,4R*)-1-benzyl-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate | 31.6 mL, 71% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C=C(C=C1)F)F)C(=O)OC | C19H19F2NO2
